US05688946
A mixture of 500 mg (1.36 mmol) of tert-butyl (4S,5R)-4-(cyclohexylmethyl)-5-[(R)-cyclopropylhydroxymethyl)-2,2-dimethyl-3-oxazolidinecarboxylate and 750 mg (1.77 mmol) of 1,1-dihydro-1,1,1-triacetoxy-1,2-benziodoxol-3(1H)-one in 10 ml of methylene chloride is stirred at room temperature for 3 hours. Thereafter, 50 ml of ether and 20 ml of 2N sodium hydroxide solution are added and the mixture is stirred at room temperature for 1 hour. The organic phase is separated, washed with 20 ml of 2N sodium hydroxide solution, dried over sodium sulphate and evaporated. There are obtained 400 mg of tert-butyl (4S,5R)-4-(cyclohexylmethyl)-5-(cyclopropylcarbonyl)-2,2-dimethyl-3-oxazolidinecarboxylate as a yellow oil; MS: 366 (M+H)+.

reactant | tert-butyl (4S,5R)-4-(cyclohexylmethyl)-5-[(R)-cyclopropylhydroxymethyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 1.36 mmol, 500 mg | C1(CCCCC1)C[C@@H]1N(C(O[C@H]1[C@H](O)C1CC1)(C)C)C(=O)OC(C)(C)C | C21H37NO4
reactant | 1,1-dihydro-1,1,1-triacetoxy-1,2-benziodoxol-3(1H)-one | 1.77 mmol, 750 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (4S,5R)-4-(cyclohexylmethyl)-5-(cyclopropylcarbonyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 400 mg | C1(CCCCC1)C[C@@H]1N(C(O[C@H]1C(=O)C1CC1)(C)C)C(=O)OC(C)(C)C | C21H35NO4
